US07429603B2
5-Phenyl-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide
5-Bromo-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide (1.0 mmol), phenylboronic acid (1.2 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) [“Pd(dppf)2Cl2”] (Aldrich) (0.05 mmol) and Na2CO3 (3.0 mmol) were dissolved in a solution of THF/H2O (4:1, 5 mL; saturated with argon) and heated to 80° C. for 5 h. After cooling to room temperature, the mixture was concentrated under reduced pressure and the resulting residue was purified by silica gel chromatography to afford the pure product. Yield: 75%. MS: 347 (M+1). 1H NMR (CDCl3, 300 MHz): δ 9.90 (br s, 1H), 8.50 (d, 1H), 7.82 (d, 2H), 7.50-7.28 (m, 4H), 7.24-7.05 (m, 3H), 6.82 (d, 1H), 3.00-2.80 (m, 4H), 1.95-1.80 (m, 4H), 1.75-1.60 (m, 2H).

reactant | 5-Bromo-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide | 1.0 mmol | N1(CCCCC1)C1=C(C=CC=C1)NC(=O)C=1OC(=CC1)Br | C16H17BrN2O2
reactant | phenylboronic acid | 1.2 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 3.0 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF H2O | 5 mL | C1CCOC1.O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.05 mmol | Cl[Pd]Cl
product | 5-Phenyl-furan-2-carboxylic acid (2-piperidin-1-yl-phenyl)-amide | Yield: 75% | N1(CCCCC1)C1=C(C=CC=C1)NC(=O)C=1OC(=CC1)C1=CC=CC=C1 | C22H22N2O2
